US05463077
A mixture of 2 g of (3aRS,4RS,5RS,7aRS)-2-benzyl-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol and 50 cm3 of ethanol is heated at 65° C., while stirring; 0.65 g of 20% palladium hydroxide-on-charcoal is added and the reaction mixture is then hydrogenated at a temperature of 65° C. and under atmospheric pressure, while stirring. After a reaction time of 1 hour, the theoretical volume of hydrogen has been absorbed; the reaction mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallised in 10 cm3 of isopropyl ether. 1.45 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol which melts at 230° C. are obtained.

reactant | (3aRS,4RS,5RS,7aRS)-2-benzyl-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol | 2 g | C(C1=CC=CC=C1)N1CC2C(CC(C(C2C1)(O)C1=C(C=CC=C1)OC)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35NO3
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol | 1.45 g | C1(=CC=CC=C1)C1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C27H29NO3
